US07176242B2
To a solution of 3-[({(1S,2R)-1-(3,5-difluorobenzyl)-3-[(3-ethylbenzyl)amino]-2-hydroxypropyl}amino)carbonyl]-5-methylbenzoic acid hydrochloride (0.50 g, 0.94 mmol) and di-tert-butyldicarbonate (0.20 g, 0.92 mmol) in 10 mL of methanol and 10 mL of CH2Cl2 was added triethylamine (0.40 mL, 2.9 mmol). The solution was stirred for 2.5 hours at ambient temperature, at which time it was concentrated, partitioned between EtOAc and 1 M KH2PO4, and the phases were separated. The organic phase was washed with M KH2PO4, dried over Na2SO4, filtered, concentrated, and triturated with heptane to give 3-({[(1S,2R)-3-[(tert-butoxycarbonyl)(3-ethylbenzyl)amino]-1-(3,5-difluorobenzyl)-2-hydroxypropyl]amino}carbonyl)-5-methylbenzoic acid (0.50 g).

reactant | 3-[({(1S,2R)-1-(3,5-difluorobenzyl)-3-[(3-ethylbenzyl)amino]-2-hydroxypropyl}amino)carbonyl]-5-methylbenzoic acid hydrochloride | 0.94 mmol, 0.50 g | Cl.FC=1C=C(C[C@@H]([C@@H](CNCC2=CC(=CC=C2)CC)O)NC(=O)C=2C=C(C(=O)O)C=C(C2)C)C=C(C1)F
reactant | di-tert-butyldicarbonate | 0.92 mmol, 0.20 g | C(C)(C)(C)OC(=O)OC(=O)OC(C)(C)C | C10H18O5
reactant | triethylamine | 2.9 mmol, 0.40 mL | C(C)N(CC)CC | C6H15N
solvent | methanol | 10 mL | CO | CH4O
solvent | CH2Cl2 | 10 mL | C(Cl)Cl | CH2Cl2
product | 3-({[(1S,2R)-3-[(tert-butoxycarbonyl)(3-ethylbenzyl)amino]-1-(3,5-difluorobenzyl)-2-hydroxypropyl]amino}carbonyl)-5-methylbenzoic acid | 0.50 g | C(C)(C)(C)OC(=O)N(C[C@H]([C@H](CC1=CC(=CC(=C1)F)F)NC(=O)C=1C=C(C(=O)O)C=C(C1)C)O)CC1=CC(=CC=C1)CC | C33H38F2N2O6
